US04198406
(b) 7-(Thien-2-ylacetamido)-3-[1-(N,N-dimethylcarbamoylmethyl)-1H-tetrazol-5-ylthio]methylceph-3-em-4-carboxylic acid
Prepared from sodium cephalothin and N,N-dimethyl-5-mercapto-1H-tetrazol-1-ylacetamide as described in example 12(b) in 44.1% yield; t.l.c. (SiO2 ; B.A.W; 12:3:5) Rf=0.35; λmax (95% ethanol) 271 nm (ε 8,390); δ(free acid) [(CD3)2CO] 2.33 and 3.27 (6H, 2×s -N(CH3)2), 3.85 (2H,s, C2 methylene), 4.00 (2H,s, --CH2CO--), 4.47 (2H,bs, --CH2S--), 5.20 (1H,d, J 5 Hz, C6 proton), 5.55 (2H,s, --CH2CON(CH3)2), 5.97 (1H,dd, J 5 and 9 Hz, C7 proton), 6.9-8.0 (4H,m, thienyl protons and --CO2H), 8.29 (1H,d, J 9 Hz, --CONH--).

reactant | sodium cephalothin | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CC3=CC=CS3)SC1)C(=O)[O-].[Na+]
reactant | N,N-dimethyl-5-mercapto-1H-tetrazol-1-ylacetamide | CN(C(CN1N=NN=C1S)=O)C | C5H9N5OS
reactant | (CD3)2CO | [2H]C(C(=O)C([2H])([2H])[2H])([2H])[2H] | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 7-(Thien-2-ylacetamido)-3-[1-(N,N-dimethylcarbamoylmethyl)-1H-tetrazol-5-ylthio]methylceph-3-em-4-carboxylic acid | 44.1% yield | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(N(C)C)=O)C(=O)O)C1=O | C19H21N7O5S3
